US05252572
Preparation o N-cyclopentyl-7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide
A mixture containing 1.22 g (0.006 mol) of 7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 0.84 ml (0.006 mol) of triethylamine in 40 ml of chloroform is cooled below -10° C. by ice-salt. A solution of 0.46 ml (0.006 mol) of methyl chloroform, ,ate in 3 ml of chloroform is dropped to the above mixture at -18° C. during 10 minutes. After stirring for 5 minutes, 0.56 g (0.0066 mol) of cyclopentylamine dissolved in 6 ml of chloroform is dropped to the above solution which is then stirred at -10° C. for 1 hour and allowed to stand overnight under cooling by ice. For working up, the reaction mixture is washed 3 times with 15 ml of 5% sodium hydrogen carbonate solution each, then 3 times with 15 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated to give 0.8 g (49.2%) of the named compound as white crystals after recrystallization from ethanol, m.p.: 162°-164° C.

reactant | 7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.006 mol, 1.22 g | CC=1C=CC=2N(C(C(=CN2)C(=O)O)=O)C1 | C10H8N2O3
reactant | triethylamine | 0.006 mol, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroform | 0.006 mol, 0.46 ml | CC(Cl)(Cl)Cl | C2H3Cl3
reactant | cyclopentylamine | 0.0066 mol, 0.56 g | C1(CCCC1)N | C5H11N
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | N-cyclopentyl-7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 0.8 g, 49.2% | C1(CCCC1)NC(=O)C1=CN=C2N(C1=O)C=C(C=C2)C | C15H17N3O2
